US06630599B1
(a) Synthesis of Pyrrolidone Urea
A mixture containing 50 g (0.67 mole) of methyl carbamate, 272 g (3.20 moles) of pyrrolidone, 2.4 g of TK-1 tin catalyst, and 2.4 g of DAMA-10 was heated at 140° C. under 40-50 mm Hg pressure for 3.5 hours. The methanol produced by the reaction was collected in a dry ice-acetone trap during the reaction. The reaction mixture was then analyzed with GLC (internal standard method). The results indicated that the yield of pyrrolidone urea was 85% based on methyl carbamate charged, and 10% of the starting methyl carbamate still remained in the reaction mixture. The reaction mixture was then distilled under reduced pressure to remove excess pyrrolidone and the remaining methyl carbamate. The residue was stirred with 200 ml of toluene for 15 minutes and filtered. The collected solid was washed with toluene and air-dried to afford 46 g (54%) of the desired product; mp 142°-144° C. (lit. mp 142°-143° C.); IR (cm−1): 3360, 1710, 1660, 1590, 1370, 1250; 1H-NMR (CDCl3): δ8.2 (s, 1 H), 5.9 (s, 1 H), 3.9 (t, 2 H), 2.6 (t, 2 H), 2.1 (t, 2 H).

reactant | methyl carbamate | 0.67 mole, 50 g | C(N)(OC)=O | C2H5NO2
reactant | pyrrolidone | 3.20 moles, 272 g | N1C(CCC1)=O | C4H7NO
catalyst | DAMA-10 | 2.4 g | CCCCCCCCCCN(C)CCCCCCCCCC | C21H45N
solvent | methanol | CO | CH4O
product | Pyrrolidone Urea | 46 g, 54% | NC(=O)N.N1C(CCC1)=O | InChI=1S/C4H7NO.CH4N2O/c6-4-2-1-3-5-4;2-1(3)4/h1-3H2,(H,5,6);(H4,2,3,4)
